US07179812B2
4-Hydroxymethyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazole (0.538 g, 2.0 mmol) is dissolved in anhydrous tetrahydrofuran (THF) (10 ml) followed by the addition of NaOtBu (0.231 g, 2.4 mmol). After stirring for 15 min at r.t., 5-bromo-2-chloro-pyrimidine (0.426 g, 2.2 mmol) in THF (5 ml) is added slowly over a period of 10 min and stirred for further 30 min at r.t. Chloroform (25 ml) is added; the mixture is washed with 0.5N hydrochloric acid (HCl) and water, dried over MgSO4 and concentrated in vacuo. After flash column chromatography (100% chloroform) 5-bromo-2-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-yl-methoxy}-pyrimidine can be isolated as an off-white solid. Yield 0.60 g (71%).

reactant | 4-Hydroxymethyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazole | 2.0 mmol, 0.538 g | OCC=1N=C(OC1)C=CC1=CC=C(C=C1)C(F)(F)F | C13H10F3NO2
reactant | NaOtBu | 2.4 mmol, 0.231 g | CC(C)(C)[O-].[Na+]
reactant | 5-bromo-2-chloro-pyrimidine | 2.2 mmol, 0.426 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | Chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 5 ml | O1CCCC1 | C4H8O
product | 5-bromo-2-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-yl-methoxy}-pyrimidine | 100% | BrC=1C=NC(=NC1)OCC=1N=C(OC1)C=CC1=CC=C(C=C1)C(F)(F)F | C17H11BrF3N3O2
